US06762303B2
Synthesis of 1-ethoxycarbonyl-4-phenyl-1,4-dihydropyridine (Compound I-1)
1.9 g (0.01 mole) of CuI was added to a mixture of 18.7 g (0.236 mole) of pyridine and 300 ml of tetrahydrofuran under a N2 atmosphere with stirring. The mixture was stirred at room temperature until the mixture became a homogeneous solution, and thereafter a solution of 22.8 g (0.21 mole) of ethyl chloroformate and 20 ml of tetrahydrofuran was added dropwise, on an ice bath, so that the inner temperature of the reactor could not exceed 20° C. Further, 100 ml of 2M phenyl magnesium chloride solution (0.2 mole; THF solution) was added dropwise over 1.5 hours at the inner temperature ranging from −10° C. to −5° C. The reaction mixture was stirred for 0.5 hours at the temperature of −10° C. to −5° C. Further, after stirring for 1 hour at 25° C., about 150 ml of tetrahydrofuran was removed from the mixture by a vacuum distillation, and then 180 ml of aqueous 20% ammonium chloride solution was added to the resultant mixture. The reaction product was extracted with 180 ml of ethyl acetate, and then the aqueous layer was discharged. Thereafter, 180 ml of 10% hydrochloric acid was added and stirred for 15 minutes. The resulting precipitate was removed by filtration through celite, and then the celite was washed with 40 ml of ethyl acetate. After removing the aqueous layer of the filtrate, the organic layer was washed once with 180 ml of 10% hydrochloric acid, and twice with 180 ml each of water. The organic layer was concentrated under a reduced pressure to obtain Compound I-1: obtained amount 44.6 g; purity 88.0% (determined by HPLC); yield 85.5%.

reactant | pyridine | 0.236 mole, 18.7 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 0.21 mole, 22.8 g | ClC(=O)OCC | C3H5ClO2
reactant | phenyl magnesium chloride | 0.2 mole, 2M, 100 ml | C1(=CC=CC=C1)[Mg]Cl
catalyst | CuI | 0.01 mole, 1.9 g | [Cu]I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-ethoxycarbonyl-4-phenyl-1,4-dihydropyridine | yield 85.5% | C(C)OC(=O)N1C=CC(C=C1)C1=CC=CC=C1 | C14H15NO2
